US04021539
N-(3-dimethylamino-propyl)-glucamine
The product was made from D-glucose and 3-dimethylamino-propylamine comparable as in Example A. A colorless, crystalline product with a melting point of 107° to 108° C. was obtained.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 3-dimethylamino-propylamine | CN(CCCN)C | C5H14N2
product | N-(3-dimethylamino-propyl)-glucamine | CN(CCCNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C | C11H26N2O5
